US07977340B2
A suspension of 2-Amino-3-nitro-5-pyridin-3-yl-benzoic acid methyl ester (0.92 g, 3.37 mmol) in aqueous sulfuric acid (50% v/v, 9 ml) was stirred at ambient temperature for 1 h before being cooled in an ice bath and treated over 5 min with an aqueous sodium nitrite solution (20% w/v, 1.4 ml). The mixture was stirred in the cold for 1.5 h before being treated with a solution of potassium thiocyanate (0.42 g) in water (1.0 ml) in one portion. The resultant mixture was stirred in the cold for 15 min and then added to a suspension of copper (I) thiocyanate (0.71 g) in water (2.8 ml) whilst cooling in an ice-bath. The mixture was stirred in the cold for 2 h and then heated to 70° C. for 20 min. After cooling to ambient temperature, the mixture was poured into a saturated aqueous solution of sodium hydrogen carbonate (200 ml) and extracted with ethyl acetate (3×100 ml) which was washed with brine (200 ml) and dried (MgSO4). The solvent was removed in vacuo to give a residue which was purified by flash chromatography (silica) eluting with 80% to 100% ethyl acetate in 40-60 petroleum ether. The 3-Nitro-5-pyridin-3-yl-2-thiocyanato-benzoic acid methyl ester was obtained as a pale yellow solid (0.78 g, 74%).

reactant | 2-Amino-3-nitro-5-pyridin-3-yl-benzoic acid methyl ester | 3.37 mmol, 0.92 g | COC(C1=C(C(=CC(=C1)C=1C=NC=CC1)[N+](=O)[O-])N)=O | C13H11N3O4
reactant | sodium nitrite | 1.4 ml | N(=O)[O-].[Na+]
reactant | potassium thiocyanate | 0.42 g | [S-]C#N.[K+]
reactant | sodium hydrogen carbonate | 200 ml | C(O)([O-])=O.[Na+]
solvent | sulfuric acid | 9 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 1.0 ml | O | H2O
solvent | water | 2.8 ml | O | H2O
catalyst | copper (I) thiocyanate | 0.71 g | [Cu]SC#N
product | 3-Nitro-5-pyridin-3-yl-2-thiocyanato-benzoic acid methyl ester | COC(C1=C(C(=CC(=C1)C=1C=NC=CC1)[N+](=O)[O-])SC#N)=O | C14H9N3O4S
